2184-02-04 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- pt refusing blood draws. Unable to get 2nd set of CE
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2184-2-3**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-2-4**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 55 (55 - 83) bpm
   BP: 120/41(59) {106/33(49) - 157/87(79)} mmHg
   RR: 17 (16 - 31) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                    500 mL
   Urine:
                                                                  1,120 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,120 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   GEN: comfortable, no acute distress
   HEENT: EOMI, PERRL, sclera anicteric, OP Clear
   NECK: No JVD, no cervical lymphadenopathy, trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: + dry crackles 2/3 up the lung fields, no wheeze or rhonchi
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: No C/C/, no LE edema
   NEURO: alert, oriented to person, place, and time. CN II
 XII grossly
   intact. Moves all 4 extremities. Strength 5/5 in upper and lower
   extremities.
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
   Assesment: [**Age over 90 **] year-old male with a history of Pulmonary Fibrosis (home
   O2, 2L resting/ 4L ambulating), DM, CAD, PVD, s/p pacemaker who
   presents with 2 days of chest pain and worsening SOB likely worsening
   pulmonary fibrosis.
   .
   Plan:
   # Dyspnea: Pt with h/o pulmonary fibrosis with home 02 requirement of
   2-4L.  Prior clinic notes indicates that he desaturates to 82% with
   ambulation.  CXR did not reveal other acute process such as pneumonia
   or pulmonary edema and most consistent with pulmonary fibrosis.  No
   clinical evidence of underlying infection or viral URI.  No fever,
   chills, worsening cough, or leukocytosis.  PE is on the differential,
   but not tachycardic and O2 sat improving. Also, ACS is a possibility
   although unlikely given clinical setting.  Likely worsening pulmonary
   fibrosis. Also may be developing worsening pulmonary HTN
   -- wean O2 as tolerated
   -- if respiratory status worsens then consider trial of BiPAP and
   steriods. Pt is DNR/DNI
   -- cont acetylcysteine 600mg TID
   -- albuterol/ipratropium nebs prn
   -- Continue azithromycin for possible atypical pneumonia- day #[**1-30**]
   -- trend WBC and fever curve
   --Continue to diurese- 30mg IV x1 for now
   --Will get ECHO to evaluate for pulmonary HTN and possible PFO (get
   bubble study)
   .
   #. Chest pain: Pt with h/o CAD s/p RCA stent in 98. pMIBI in [**2180**]
   showed only fixed defects. No ECG changes and 1st set of CE trop 0.03,
   but CK flat. Currently CP free.  Unlikely ACS, but could represent
   angina. Also on the ddx PE, MSK, GERD.
   -- Patient refusing labs so have not been able to trend cardiac
   enzymes, will attempt this afternoon
   -- Change aspirin to 81mg given pt refused higher dose
   -- cont home statin and metoprolol
   -- no indication for heparin gtt at this time
   --ECHO as above
   .
   #. Diabetes: Hold oral agents. Cover with ISS
   .
   # FEN: Low Na/Diabetic
   .
   # Access PIV
   .
   # PPx: bowel regimen, hep sq,
   .
   # Code: DNR/DNI- confirmed with patient and wife
   .
   # Comm: [**Name (NI) 11440**] (Wife) [**Telephone/Fax (1) 11441**]
   ICU Care
   Nutrition: cardiac.diabetic diet
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2184-2-3**] 04:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor, PT consult, SW consult, Palliative care
   consult

2184-02-04 11:00:00 Physician Attending Progress Note
Chief Complaint: Weakness/SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Stable night. Weaned down to NC 4L. Given lasix 30mg iv x1, also
   started on azithromycin. Refusing some meds, blood draws.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2184-2-4**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2184-2-3**] 08:00 PM
   Other medications:
   sliding scale insulin, metoprolol 25 [**Hospital1 **], NAC, vitamin D, calcium, asa
   81, lasix refusing, heparin s/c refusing, docusate, azithromycin.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-2-4**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 61 (55 - 83) bpm
   BP: 130/39(61) {106/33(49) - 157/87(79)} mmHg
   RR: 37 (16 - 37) insp/min
   SpO2: 86%
   Heart rhythm: V Paced
                  Total In:
                  400 mL
   PO:
                  400 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                    650 mL
   Urine:
                                                                  1,120 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,120 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 86%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: PPP
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles :
   bilaterallyand anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, Neurologic: Attentive, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
        [image002.jpg]
   Pending
   Assessment and Plan
 Acute/chronic respiratory failure: desaturating to the 80s on
   supplemental O2. Advanced IPF at baseline, with subacute and now acute
   decline. CXR with possible increased opacities in the left base. Could
   also have worsening pulmonary HTN as he doesnot consistently wear his
   oxygen and does not wear it with ambulation. He could also have an
   exacerbation of IPF, but options to treat this are very limited. We
   will treat with azithromycin, durese gently. He agrees to obtaining
   echo with bubble study. Wean O2 as tolerated. Consider anticoagulation
   based on discussion with him if has dramatically increased pulmonary
   pressures. Continue to respect his wishes to be DNR/DNI and try to get
   him home asap. Palliative care has seen patient and their input is very
   much appreciated. Mr [**Known lastname 11444**] is unclear at this time on his wishes
   regarding home hospice. It seems he defers most of the decisions to his
   wife who will likely be coming in tomorrow. Given his end-stage lung
   disease, would recommend home with hospice.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-2-3**] 04:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2184-02-05 10:58:00 Physician Attending Progress Note
Chief Complaint: dyspnea
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Echo performed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2184-2-5**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   metoprolol, vitamin D, calcium carbonate, simvastatin, lasix, s/c
   heparin, colace [**Hospital1 **], azithromycin, asa 81, atrovent nebs prn.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-2-5**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.3
C (95.6
   HR: 78 (57 - 80) bpm
   BP: 139/107(114) {83/42(53) - 168/107(114)} mmHg
   RR: 26 (16 - 33) insp/min
   SpO2: 94%
   Heart rhythm: V Paced
                  Total In:
                                                                    910 mL
                                                                    360 mL
   PO:
                                                                    910 mL
                                                                    360 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    400 mL
   Urine:
                                                                  1,700 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -790 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (P2: Loud)
   Peripheral Vascular: PPP
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Trace, Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
        [image002.jpg]
   Imaging: Echo heart:
   CXR:
   Assessment and Plan
   Dyspnea: sats improved on supplemental O2, no further iv lasix,
   continue home dose of oral lasix. Continue NAC if patient agreeable.
   Echo shows preserved RV function which is reassuring and no R to left
   shunt.
   Planning on d/c home with services and they will consider hospice for
   the near future.
   PCP, [**Name10 (NameIs) **] [**Last Name (STitle) 11484**] stopped by this morning and is on board with this plan.
   ICU Care
   Nutrition: ADAT
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-2-3**] 04:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin - refusing
   Stress ulcer: Not indicated
   Communication:  wife coming in
   Code status: DNR / DNI
   Disposition :Transfer home with VNA services
   Total time spent: 30